US06156774
Ethyl 2-[5-(1,2,3-triazol-1-ylmethyl)thien-2-yl]-2-hydroxyiminoacetate
Hydroxylamine hydrochloride (167 mg) was added to a stirred solution of ethyl 2-[5-(1,2,3-triazol-1-ylmethyl)thien-2-yl]-2-oxoacetate (Description 55) (319 mg) in ethanol (5 ml). The mixture was stirred for 18 h then the solvent was evaporated and the residue partitioned between ethyl acetate and water. The organic phase was washed with water and brine, dried over magnesium sulphate and evaporated to give the product (336 mg). νmax (nujol) 3136, 1736cm-1. δ(CD3COCD3) 1.33-1.39 (3H, m), 4.30-4.46 (2H, m), 5.89 and 5.95 (2H, two s's), 7.07 and 7.17 (1H, two d's, J 3.81 Hz), 7.23 and 7.75 (1H, two d's, J 3.90 Hz), 8.07 and 8.08 (1H, two s's). m/z 281 (MH+)

reactant | Hydroxylamine hydrochloride | 167 mg | Cl.NO
reactant | ethyl 2-[5-(1,2,3-triazol-1-ylmethyl)thien-2-yl]-2-oxoacetate | 319 mg | N1(N=NC=C1)CC1=CC=C(S1)C(C(=O)OCC)=O | C11H11N3O3S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Ethyl 2-[5-(1,2,3-triazol-1-ylmethyl)thien-2-yl]-2-hydroxyiminoacetate | 336 mg | N1(N=NC=C1)CC1=CC=C(S1)C(C(=O)OCC)=NO | C11H12N4O3S
